US04061761
4-(4-Chloro-3-sulfamoylphenyl)-2-(2-chlorobenzylimino)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide
4.7 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3.1 g of 1-(2-chlorobenzyl)-3-methylthiourea were reacted according to Example 23 and the crystalline end product was filtered off. Colorless crystalline solid body: melting point: 182° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 4.7 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-(2-chlorobenzyl)-3-methylthiourea | 3.1 g | ClC1=C(CNC(=S)NC)C=CC=C1 | C9H11ClN2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-2-(2-chlorobenzylimino)-3-methyl-1,3-thiazolidine-4-ol-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC1=C(C=CC=C1)Cl)C)O)S(N)(=O)=O | InChI=1S/C17H17Cl2N3O3S2.BrH/c1-22-16(21-9-11-4-2-3-5-13(11)18)26-10-17(22,23)12-6-7-14(19)15(8-12)27(20,24)25;/h2-8,23H,9-10H2,1H3,(H2,20,24,25);1H
